US07338958B2
zc) Production of (RS)—N,S-dimethyl-S-(4-nitrophenyl)sulfoximide
500 mg (2.5 mmol) of (RS)-S-(4-nitrophenyl)-S-methyl sulfoximide in 4 ml of formaldehyde (aqueous, 37%) and 20 ml of formic acid (98-100%) are stirred in an open flask at 100° C. After 22 hours, the solvent is evaporated, mixed again with 4 ml of formaldehyde (aqueous, 37%) and 20 ml of formic acid (98-100%) and stirred for another 22 hours at 100° C. Residue from the solvent is drawn off in a rotary evaporator. The remaining residue is dissolved with 2N HCl and extracted from DCM. The aqueous phase is made basic with NaHCO3 and extracted from DCM. The combined organic phases are dried (Na2SO4), filtered and concentrated by evaporation. 448 mg (2.1 mmol, corresponding to 85% of theory) of the product is obtained.

reactant | (RS)-S-(4-nitrophenyl)-S-methyl sulfoximide | 2.5 mmol, 500 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=N)C | C7H8N2O3S
reactant | formaldehyde | 4 ml | C=O | CH2O
solvent | formic acid | 20 ml | C(=O)O | CH2O2
product | (RS)—N,S-dimethyl-S-(4-nitrophenyl)sulfoximide | CN=S(=O)(C1=CC=C(C=C1)[N+](=O)[O-])C | C8H10N2O3S
